US07060827B2
In like manner to the preparation of N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine, the reaction of 2-chloro-N4-(3,4-ethylenedioxyphenyl)-5-fluoro-4-pyrimidineamine with 4,5-dichloro-1H-imidazoleamine gave N2-[4-(4,5-dichloro-1H-imidazol-1-yl)phenyl]-N4-(3,4-ethylenedioxyphenyl)-5-fluoro-2,4-pyrimidinediamine. 1H NMR (DMSO-d6): δ 10.10 (s, 1H), 9.85 (s, 1H), 8.20 (d, 1H, J=4.2 Hz), 8.01 (s, 1H), 7.78 (d, 1H, J=8.7 Hz), 7.36 (d, 1H, J=9 Hz), 7.25 (d, 1H, J=3 Hz), 7.14 (dd, 1H, J=2.1 and 9 Hz), 6.85 (d, 1H, J=8.7 Hz); LCMS: ret. time: 23.59 min.; purity: 95%; MS (m/e): 474 (MH+).

reactant | 2-chloro-N4-(3,4-ethylenedioxyphenyl)-5-fluoro-4-pyrimidineamine | ClC1=NC=C(C(=N1)NC1=CC2=C(C=C1)OCCO2)F | C12H9ClFN3O2
reactant | 4,5-dichloro-1H-imidazoleamine | ClC=1N=C(NC1Cl)N | C3H3Cl2N3
product | N2-[4-(4,5-dichloro-1H-imidazol-1-yl)phenyl]-N4-(3,4-ethylenedioxyphenyl)-5-fluoro-2,4-pyrimidinediamine | ClC=1N=CN(C1Cl)C1=CC=C(C=C1)NC1=NC=C(C(=N1)NC1=CC2=C(C=C1)OCCO2)F | C21H15Cl2FN6O2
